Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hemoptysis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with unresectable pancreatic cancer and malignant right 
pleural effusion with PleurX catheter in place. Presents to ED 
for 10 days of cough with hemoptysis. He has never had 
hemoptysis before and does not have a history of nosebleeds. He 
takes Coumadin for atrial fibrillation. INR one week ago was 5.7 
-> 1.8 -> 2.6 on ___. He was seen at the medical oncology 
clinic today and told to hold his Coumadin. A CT scan from an 
outside facility showed no evidence of endobronchial lesions, no 
PE, and stable pleural effusion. 
 
Past Medical History:
1.  Coronary artery disease status post PCI ___.
2.  Atrial fibrillation.
3.  Hypertension.
4.  Hyperlipidemia.
5.  Type 2 diabetes mellitus.
6.  Chronic kidney disease, stage III.
7.  History of Lyme disease/anaplasmosis, ___.
8.  Osteoarthritis, status post left hip steroid injection.
9.  Cataracts.
 
Social History:
___
Family History:
Confirmed with pt on admission. 
The patient's mother lived to her ___.  He does
not know his father's history.  He has two sisters and four
children are without health concerns.  No family history of
malignancy.

 
Physical Exam:
General: Awake and alert, no acute distress
CV: RRR, no murmurs
Respiratory: no respiratory distress. Pleurex catheter in place
Abdomen: Soft, nontender, no masses. 
Extremities: WWP. 
 
Pertinent Results:
___ 05:10PM   GLUCOSE-147* UREA N-16 CREAT-1.1 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-25 ANION GAP-11
___ 05:10PM   WBC-6.5# RBC-3.30* HGB-9.6* HCT-31.2* MCV-95 
MCH-29.1 MCHC-30.8* RDW-17.2* RDWSD-59.6*
___ 05:10PM   ___ PTT-38.9* ___
___ 08:54AM BLOOD ___
 
Brief Hospital Course:
The patient was admitted to the thoracic surgery inpatient 
service from the ED for monitoring of his INR and evaluation by 
interventional pulmonology for consideration of flexible 
bronchoscopy. At the time of his admission, his INR was 2.3. His 
hemoptysis had already decreased considerably to approximately a 
quarter-sized amount. The following day the patient's INR 
decreased to 2.0 and the patient elected for discharge with 
plans to have his flexible bronchoscopy done as an outpatient. 
Per IP, the patient's INR will need to be <1.5 at the time of 
the procedure. The patient will plan to return to his 
___ clinic on ___, ___, for repeat INR check. 
This plan was discussed and agreed upon by the patient and 
communicated with the office of his PCP, ___. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge information and 
follow-up instructions as described above with understanding 
verbalized and agreement with the discharge plan.  
 
Medications on Admission:
1.  Atenolol 25 mg PO DAILY  
2.  GlipiZIDE 10 mg PO DAILY  
3.  Glargine 5 Units Bedtime 
4.  Losartan Potassium 100 mg PO DAILY  
5.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  
6. Warfarin as directed by ___ clinic
 
Discharge Medications:
1.  Atenolol 25 mg PO DAILY  
2.  GlipiZIDE 10 mg PO DAILY  
3.  Glargine 5 Units Bedtime 
4.  Losartan Potassium 100 mg PO DAILY  
5.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  
6. Warfarin as directed by ___ clinic

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hemoptysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear, Mr. ___, 

It was a pleasure taking care of you here at the ___ 
___. You were admitted to our hospital for 
your coughing up blood. At this time, you are being discharged 
with plans to follow up to your primary care physician on 
___, ___ for ongoing warfarin management as well as to 
Interventional Pulmonology for flexible bronchoscopy on ___, 
___. If you have any questions or concerns please contact 
Dr. ___ office at ___. 

Thank you,
Your ___ team
 
Followup Instructions:
___